// Generated for: spectre
// Generated on: Apr 24 08:30:28 2015
// Design library name: 16nm_Tests
// Design cell name: inv_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters _EXPR_2=4e-07 wn=80n wp=120n l=20n time2=200n vdd=850m \
    nfinn=wn/40n nfinp=wp/40n
include "/root/Desktop/Cadence/ncsu-FreePDK15/hspice_16nm_lstp.include"

// Library name: 16nm_Tests
// Cell name: inv_Test
// View name: schematic
M0 (out in vdd! vdd!) pfet w=wp l=l nfin=nfinp m=1 degradation=yes
V1 (in 0) vsource type=pwl mag=0 phase=0 wave=[ 0 0 time2 vdd ]
M1 (out in 0 0) nfet w=wn l=l nfin=nfinn m=1 degradation=no
V0 (vdd! 0) vsource type=dc dc=vdd
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=_EXPR_2 errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save in out V0:p 
saveOptions options save=allpub
